US05252538
Hydrogen chloride gas is bubbled into a solution of diethyl 5-acetamido-1,6-dihydro-6-oxo-2,3-pyridinedicarboxylate (5.2 g, 0.018 mol) dissolved in absolute ethanol (400 mL) until the solution is saturated at 20° C. The reaction is stirred at room temperature overnight and is then concentrated in vacuo. The resulting residue is dissolved in water, neutralized with solid sodium bicarbonate, and extracted into methylene chloride. The combined organic extracts are dried over anhydrous sodium sulfate. filtered and concentrated in vacuo to give diethyl 5-amino-1,6-dihydro-6-oxo-2,3-pyridinedicarboxylate as a yellow solid in quantitative yield.

reactant | Hydrogen chloride | Cl | ClH
reactant | diethyl 5-acetamido-1,6-dihydro-6-oxo-2,3-pyridinedicarboxylate | 0.018 mol, 5.2 g | C(C)(=O)NC1=CC(=C(NC1=O)C(=O)OCC)C(=O)OCC | C13H16N2O6
solvent | ethanol | 400 mL | C(C)O | C2H6O
product | diethyl 5-amino-1,6-dihydro-6-oxo-2,3-pyridinedicarboxylate | quantitative yield | NC1=CC(=C(NC1=O)C(=O)OCC)C(=O)OCC | C11H14N2O5
